US06448266B1
1-Benzyl-4-[1-benzyloxy-3-(ethoxycarbonyl)cyclobutan-3-yl]-2-pyrrolidone
A 6.51 g (19.5 mmol) portion of crude 4-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-2-pyrrolidone was dissolved in a mixed solvent consisting of 45 ml of dimethylformamide and 45 ml of tetrahydrofuran, and to the resulting solution which was cooled in an ice bath and stirred was subsequently added 935 mg (23.4 mmol) of 60% oily sodium hydride gradually. After 10 minutes of stirring, the reaction mixture was further stirred at room temperature for 1 hour and then, while cooling in an ice bath with stirring, 2.80 ml (23.4 mmol) of benzyl chloride was added dropwise thereto. After 1 hour of stirring, the resulting reaction solution was subjected to separation of layers at room temperature. The thus separated organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under a reduced pressure to give an oily material. The oily material was dissolved in 100 ml of ethanol, 20 ml of 10 N sodium hydroxide aqueous solution was added dropwise to the resulting solution which was cooled and stirred in an ice bath, and then 14 hours of stirring was carried out at room temperature. After evaporation of ethanol under a reduced pressure, the thus obtained residue was mixed with 20 ml of water and then, while cooling in an ice bath, acidified with concentrated hydrochloric acid. After filtration, this was extracted with diethyl ether (100 ml×3) and then dried over anhydrous sodium sulfate. After filtration, this was concentrated under a reduced pressure, the thus obtained residue was dissolved in 180 ml of ethanol, and the resulting solution was gradually mixed with 4.55 g (23.9 mmol) of p-toluenesulfonic acid monohydrate and heated under reflux for 3 hours. The reaction solution was concentrated, mixed with saturated sodium bicarbonate aqueous solution and then extracted with chloroform, and the resulting organic layer was dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under a reduced pressure and the resulting residue was purified by a silica gel column chromatography (n-hexane:ethyl acetate=2:1) to give 2.20 g of the title compound as a diastereomer mixture. Thereafter, the thus obtained title compound was again subjected to a silica gel column chromatography (n-hexane:ethyl acetate=4:1) to separate the diastereoisomers into 0.76 g of Isomer A and 1.44 g of Isomer B. and the following reaction was carried out using the Isomer A.

reactant | 4-[1-benzyloxy-3-(isoamyloxycarbonyl)cyclobutan-3-yl]-2-pyrrolidone | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)OCCC(C)C)C1CC(NC1)=O | C21H29NO4
reactant | sodium hydride | 23.4 mmol, 935 mg | [H-].[Na+]
reactant | benzyl chloride | 23.4 mmol, 2.80 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 10 N, 20 ml | [OH-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 23.9 mmol, 4.55 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-4-[1-benzyloxy-3-(ethoxycarbonyl)cyclobutan-3-yl]-2-pyrrolidone | 2.20 g | C(C1=CC=CC=C1)N1C(CC(C1)C1(CC(C1)OCC1=CC=CC=C1)C(=O)OCC)=O | C25H29NO4
